US06852726B2
Following the procedure described in J.Amer.Chem.Soc. 96 (17), 5495 (1974) 2-chloro-4-fluoroaniline (1.45 g, 10 mmole) was dissolved in methylene chloride (35 ml) and stirred vigorously at −65° C. under nitrogen while freshly prepared t-butyl hypochlorite (1.08 g, 10 mmole) dissolved in 10 ml methylene chloride was added dropwise. Ten minutes after the completion of the addition a solution of 1,1-dimethoxy-2-methylsulfanyl-ethane (1.36 g, 10 mmole) dissolved in 10 ml methylene chloride was added slowly. The reaction mixture was stirred at −65° C. for 1 h after which time, triethyl amine (1.01 g, 10 mmole) dissolved in 10 ml methylene chloride was added and the temperature was allowed to rise to room temperature. Water was added and the organic layer was separated, dried over magnesium sulfate, filtered and evaporated to dryness. The oily residue was taken up in carbon tetrachloride (35 ml) containing triethylamine (2 ml) and refluxed overnight. The solvent was removed and replaced with ether (35 ml) and stirred in a two-phase system with 12 ml of 2N HCl for about 3 h. The ether layer was then separated, washed with bicarbonate solution, dried over magnesium sulfate, filtered and evaporated to dryness. Purification by chromatography on silica gel (1:9 ethyl acetate:hexane) afforded the pure 7-chloro-5-fluoro-3-methylsulfanyl-1H-indole (0.997 g, 46% yield).

reactant | 2-chloro-4-fluoroaniline | 10 mmole, 1.45 g | ClC1=C(N)C=CC(=C1)F | C6H5ClFN
reactant | t-butyl hypochlorite | 10 mmole, 1.08 g | ClOC(C)(C)C | C4H9ClO
reactant | 1,1-dimethoxy-2-methylsulfanyl-ethane | 10 mmole, 1.36 g | COC(CSC)OC | C5H12O2S
reactant | triethyl amine | 10 mmole, 1.01 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 35 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
solvent | Water | O | H2O
product | 7-chloro-5-fluoro-3-methylsulfanyl-1H-indole | 0.997 g, 46% yield | ClC=1C=C(C=C2C(=CNC12)SC)F | C9H7ClFNS
